US07858632B2
To 4-(2,4-Diamino-pyrimidin-5-yloxy)-2-iodo-5-isopropyl-phenol (200 mg, 0.43 mmol) dissolved in anhydrous N,N-dimethylformamide (2 mL) was added anhydrous potassium carbonate (414 mg, 3.00 mmol) and propargyl chloride (0.03 mL, 0.43 mmol). After stirring at room temperature overnight, the reaction was extracted with dichloromethane, water and brine. The dichloromethane layer was dried using anhydrous magnesium sulfate, concentrated, and purified via silica gel column chromatography (95/5/0.1 dichloromethane/methanol/ammonium hydroxide) to yield 5-(5-iodo-2-isopropyl-4-prop-2-ynyloxy-phenoxy)-pyrimidine-2,4-diamine as white solid (131 mg, 71%), MS (N+H)=425

reactant | 4-(2,4-Diamino-pyrimidin-5-yloxy)-2-iodo-5-isopropyl-phenol | 0.43 mmol, 200 mg | NC1=NC=C(C(=N1)N)OC1=CC(=C(C=C1C(C)C)O)I | C13H15IN4O2
reactant | potassium carbonate | 3.00 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl chloride | 0.43 mmol, 0.03 mL | C(C#C)Cl | C3H3Cl
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 5-(5-iodo-2-isopropyl-4-prop-2-ynyloxy-phenoxy)-pyrimidine-2,4-diamine | 131 mg, 71% | IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OCC#C | C16H17IN4O2
